US07141598B2
(iii) Production of 4-hydroxy-1-(1-trityl-1H-imidazol-4-yl)butan-1-one
4-Hydroxy-1-(1H-imidazol-4-yl)butan-1-one (9.23 g) was dissolved in N,N′-dimethylformamide (120 ml), and triethylamine (12.5 ml) and chlorotriphenylmethane (16.69 g) were added. The mixture was stirred at room temperature for 2 h. Brine was added and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=9:1) to give the title compound (25.22 g) as an orange oil.

reactant | 4-Hydroxy-1-(1H-imidazol-4-yl)butan-1-one | 9.23 g | OCCCC(=O)C=1N=CNC1 | C7H10N2O2
reactant | triethylamine | 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotriphenylmethane | 16.69 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | N,N′-dimethylformamide | 120 ml | CN(C)C=O | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | 4-hydroxy-1-(1-trityl-1H-imidazol-4-yl)butan-1-one | 25.22 g | OCCCC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O2
